US06936619B2
2-Fluoro-4-methoxy-6-(tetrahydro-furan-3-yloxy)-benzonitrile
Sodium hydride (60% in mineral oil, 0.83 g, 21 mmol) was added portionwise to 3-hydroxytetrahydrofuran (1.82 g, 21 mmol) in tetrahydrofuran (40 ml) at 0° C. under a nitrogen atmosphere. The suspension was warmed to room temperature and was stirred for 1 hour. The mixture formed was added over 30 minutes to 2,6-difluoro-4-methoxy-benzonitrile (Mol. Cryst. Liq. Cryst. 1989, 172) (3.5 g, 21 mmol) in tetrahydrofuran (50 ml) and the resulting solution was held at room temperature for 16 hours. Water (75 ml) was added and the aqueous mixture was extracted with ethyl acetate (3×200 ml) The combined organic solutions were dried over magnesium sulphate and evaporated under reduced pressure. The material obtained was dried under vacuum to give the title compound as a brown solid (5.1 g).

reactant | Sodium hydride | 21 mmol, 0.83 g | [H-].[Na+]
reactant | 3-hydroxytetrahydrofuran | 21 mmol, 1.82 g | OC1COCC1 | C4H8O2
reactant | 2,6-difluoro-4-methoxy-benzonitrile | 21 mmol, 3.5 g | FC1=C(C#N)C(=CC(=C1)OC)F | C8H5F2NO
reactant | Water | 75 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-Fluoro-4-methoxy-6-(tetrahydro-furan-3-yloxy)-benzonitrile | 5.1 g | FC1=C(C#N)C(=CC(=C1)OC)OC1COCC1 | C12H12FNO3
